* LDO Regulator - Analog Supply
* Input: 12.0V (VBAT), Output: 3.3V
* Load current: 50mA max
.SUBCKT LDO_ANALOG VIN VOUT GND VREF EN

* Error amplifier (folded-cascode OTA)
* VIN-facing PMOS devices must use the HV model because this rail is tied to VBAT.
* Non-inverting: VREF, Inverting: feedback from VOUT divider
M_D1 n_d1 n_d1 VIN VIN PMOS_HV W=10u L=1u
M_D2 n_d2 n_d1 VIN VIN PMOS_HV W=10u L=1u
M_D3 n_d1 VREF n_tail GND NMOS_3P3 W=20u L=1u
M_D4 n_d2 n_fb n_tail GND NMOS_3P3 W=20u L=1u
M_TAIL n_tail n_bias GND GND NMOS_3P3 W=10u L=2u

* Bias current generation
M_BIAS n_bias n_bias GND GND NMOS_3P3 W=5u L=4u
R_BIAS n_bias VIN 300k

* Pass transistor (HV PMOS - low dropout)
M_PASS VOUT n_d2 VIN VIN PMOS_HV W=6000u L=0.8u

* Output capacitor (external, modeled)
C_OUT VOUT GND 1u
R_ESR VOUT n_esr 50m
C_INT n_esr GND 100p

* Feedback resistor divider: VOUT * R2/(R1+R2) = VREF
* For VREF=1.2V, VOUT=3.3V: R1/R2 = (VOUT/VREF - 1)
R_FB1 VOUT n_fb 175000
R_FB2 n_fb GND 100k

* Miller compensation
C_COMP n_d2 VOUT 5p
R_COMP n_d2 n_comp_int 10k
C_COMP2 n_comp_int VOUT 2p

* Enable switch
M_EN_SW n_bias EN GND GND NMOS_3P3 W=2u L=0.5u

.ENDS LDO_ANALOG
